US07750003B2
1-[4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea
4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (250 mg) was dissolved in 1,4-dioxane (4 mL) and ethyl isocyanate (0.144 mL) added. The reaction was heated to 120° C. for 1 hour in a microwave reactor. The reaction was concentrated in vacuo then the residue chromatographed on silica, eluting with 2.5% methanol in DCM, to give the desired compound (106 mg) as a white solid.

reactant | 4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 250 mg | C[Si](OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1)(C(C)(C)C)C | C22H34N4O2Si
reactant | ethyl isocyanate | 0.144 mL | C(C)N=C=O | C3H5NO
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | 1-[4-[4-[(Dimethyl-tert-butyl-silyl)oxymethyl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]-3-ethyl-urea | 106 mg | C[Si](OCC1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(=O)NCC)(C(C)(C)C)C | C25H39N5O3Si
